US08476197B2
To a solution of ethyl 3-chloro-3-(3-chloro-4-methyl-2-thienyl)-2-cyanoacrylate (0.351 g, 1.21 mmol, 1 eq.) in 3 ml of acetonitrile was added N-methyl-L-alaninamide hydrochloride (0.201 g, 1.45 mmol, 1.2 eq.) followed by triethylamine (TEA) (0.490 g, 4.84 mmol, 4 eq.). The reaction was microwaved (130° C., 300 s, fixed hold, high absorption) and the solvent evaporated. The residual oil was triturated in ethyl acetate and the white solid removed by filtration. After concentration under vacuum, the residual oil was subjected to column chromatography to give ethyl (2Z)-3-(3-chloro-4-methyl-2-thienyl)-2-cyano-3-{[(2R)-1-(methylamino)-1-oxopropan-2-yl]amino}acrylate (0.26 g, 57% yield) as a mixture of atropoisomers.

reactant | ethyl 3-chloro-3-(3-chloro-4-methyl-2-thienyl)-2-cyanoacrylate | 1.21 mmol, 0.351 g, 1 eq. | ClC(=C(C(=O)OCC)C#N)C=1SC=C(C1Cl)C | C11H9Cl2NO2S
reactant | N-methyl-L-alaninamide hydrochloride | 1.45 mmol, 0.201 g, 1.2 eq. | Cl.CNC([C@@H](N)C)=O
reactant | triethylamine | 4.84 mmol, 0.490 g, 4 eq. | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | ethyl (2Z)-3-(3-chloro-4-methyl-2-thienyl)-2-cyano-3-{[(2R)-1-(methylamino)-1-oxopropan-2-yl]amino}acrylate | 0.26 g, 57% yield | ClC1=C(SC=C1C)/C(=C(/C(=O)OCC)\C#N)/N[C@@H](C(=O)NC)C | C15H18ClN3O3S
